US04716241
100 ml of a 3M methylmagnesium bromide/ether solution was added to a solution of 30 g of 2,2,5,5-tetramethylcyclopentanone in 50 ml of ether under a nitrogen gas atmosphere, and the mixture was stirred at room temperature overnight. Then, 65 ml of aqueous saturated ammonium chloride solution was added dropwise thereto and the mixture was stirred for 10 minutes. The ether layer was subjected to decantation and the residue was extracted with ether. The ether layers were dried over anhydrous sodium sulfate, and concentrated under reduced pressure, whereby 30 g of 1,2,2,5,5-pentamethylcyclopentanol was obtained.

reactant | methylmagnesium bromide ether | 3M | C[Mg]Br.CCOCC
reactant | 2,2,5,5-tetramethylcyclopentanone | 30 g | CC1(C(C(CC1)(C)C)=O)C | C9H16O
reactant | ammonium chloride | 65 ml | [Cl-].[NH4+]
solvent | ether | 50 ml | CCOCC | C4H10O
product | 1,2,2,5,5-pentamethylcyclopentanol | 30 g | CC1(C(CCC1(C)C)(C)C)O | C10H20O
